US06949577B2
tert-Butyl 3-[hydroxy(1-trityl-1H-imidazol-4-yl)methyl]-2-oxo-1-piperidinecarboxylate
Lithium diisopropylamide (8 ml, 1.5M in cyclohexane, 12 mmol) was added dropwise over 5 minutes to a cooled (−78° C.) solution of tert-butyl 2-oxo-1-piperidinecarboxylate (J. Org. Chem. 1983, 48, 2424; J. Chem. Soc. I, 1989, 721) (1.99 g, 10 mmol) in tetrahydrofuran (40 ml), so as to maintain a temperature below −70° C. Once addition was complete, the solution was stirred for 20 minutes. A solution of 1-tritylimidazole-4-carboxaldehyde (J. Med. Chem. 1977, 20, 721) (4.06 g, 12 mmol) in tetrahydrofuran (60 ml) was added slowly, and once addition was complete, the reaction was stirred at −78° C. for 2 hours. Saturated aqueous ammonium chloride solution (50 ml) was added, the mixture allowed to warm to room temperature and then partitioned between water (50 ml) and ethyl acetate (300 ml). The phases were separated, the organic layer dried (MgSO4), filtered, and concentrated under reduced pressure to give the title compound, 5.3 g, 99% yield.

reactant | Lithium diisopropylamide | 12 mmol, 1.5M, 8 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | tert-butyl 2-oxo-1-piperidinecarboxylate | 10 mmol, 1.99 g | O=C1N(CCCC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | 1-tritylimidazole-4-carboxaldehyde | 12 mmol, 4.06 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C=O | C23H18N2O
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | tert-Butyl 3-[hydroxy(1-trityl-1H-imidazol-4-yl)methyl]-2-oxo-1-piperidinecarboxylate | 99% yield | OC(C1C(N(CCC1)C(=O)OC(C)(C)C)=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H35N3O4
